Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transient word-finding difficulty
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ right-handed woman with a 
past medical history significant for hypertension on metoprolol, 
hypothyroidism, and migraines with visual scotoma who presented 
as a transfer from an outside hospital for concern of small 
hemorrhage on CT scan in the setting of 10 minutes of word 
finding difficulty 1 day prior to presentation.

Briefly, the patient was in her usual state of health a day 
prior to presentation and was out to dinner with her friend.  
While looking at the menu and engaging in conversation with her 
friends, she felt that she could not get out the words she was 
trying to say. The patients states that this went on for about 
ten minutes. She states that her friends were focused on their 
menus and did not notice this episode of word-finding 
difficulty. The patient was able to finish eating dinner and 
stayed at the restaurant for about 2 hours.  She
then drove herself home and went to sleep with no further 
symptoms.  On the day of presentation, the patient woke up and 
felt a slight muscle spasm on the left side of her neck but 
otherwise is feeling well. She did not have any further episodes 
of finding difficulty, no slurred speech, no facial droop, no 
weakness, no sensory changes, no vertigo, no gait instability at 
all today.  Later this afternoon when she told her son what 
happened he urged her to present to the hospital for evaluation. 
 

The patient went to ___ with her husband for a 
CT scan was performed.  A small area of hypodensity concerning 
for a small hemorrhage versus calcification was seen next to the 
right lateral ventricle and she was transferred to the ___ 
___ for further evaluation.  Patient denies any headaches, or 
significant elevations in blood pressure lately.  She states 
that she has been under a lot of stress while caring for her 
granddaughter who
has a brain tumor.  She has never had any strokelike symptoms or 
TIAs in the past.   She denied any aspirin intake regulation.  
At times she says that she does experience heart palpitations or 
rapid heartbeat. Of note, this patient is receiving radiation 
treatments to the nose for basal cell carcinoma.  She attends 
radiation once daily, and the treatments began about ___ weeks
ago.  The patient does have a history of migraines as well, 
where she has a visual scotoma without headache.  
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Basal carcinoma, receiving radiation therapy daily
Hypertension
Hypothyroidism
Migraine with visual scotoma (only visual symptoms, no
headache)
 
Social History:
___
Family History:
Brother with stroke ___ years ago with significant disability 
 
Physical Exam:
Admission Physical Exam:
Vitals: Temp: 97.8 PO BP: 149/73 R Sitting HR: 65 RR: 19 O2 sat: 
97% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ FSBG: 92 

General: Awake,  cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was not dysarthric. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Visual acuity 
___ bilaterally. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    5  5    ___    ___   5        5   
R  5    5  5    ___    ___   5        5   

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   0
R  2  2    2    2   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap 
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. 

======================
Discharge Physical exam:
Unchanged. Non-focal. 
 
Pertinent Results:
Admission labs:
___ 11:05PM   WBC-5.0 RBC-4.49 HGB-13.9 HCT-39.5 MCV-88 
MCH-31.0 MCHC-35.2 RDW-13.2 RDWSD-42.7
___ 11:05PM   NEUTS-60.4 ___ MONOS-7.6 EOS-1.6 
BASOS-0.4 IM ___ AbsNeut-3.00 AbsLymp-1.48 AbsMono-0.38 
AbsEos-0.08 AbsBaso-0.02
___ 11:05PM   PLT COUNT-175
___ 11:05PM   %HbA1c-5.5 eAG-111
___ 11:05PM   LIPASE-39
___ 11:05PM   ALT(SGPT)-16 AST(SGOT)-19 ALK PHOS-60 TOT 
BILI-0.3
___ 11:05PM   GLUCOSE-109* UREA N-18 CREAT-0.7 SODIUM-146 
POTASSIUM-4.0 CHLORIDE-110* TOTAL CO2-22 ANION GAP-14
___ 11:05PM   TRIGLYCER-174* HDL CHOL-56 CHOL/HDL-3.6 
LDL(CALC)-108

___  CT HEAD W/O contrast: small area appears to be 
hemorrhage near
R lateral ventricle 

___ MR HEAD W & W/O CONTRAS
IMPRESSION:  
1. No acute infarct, hemorrhage or mass. 
2. Mild small vessel disease. 

___ CTA Head and Neck 
IMPRESSION:   
1. No acute infarct is identified.  No hemorrhage.  Small 
hyperdensity seen in the right centrum semiovale likely 
represents calcification. 
2. Unremarkable CTA of head and neck, particularly no stenosis, 
dissection, aneurysm. 

TTE ___:
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). Doppler parameters are most 
consistent with normal left ventricular diastolic function. 
Right ventricular chamber size and free wall motion are normal. 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. Trace aortic regurgitation 
is seen. The mitral valve leaflets are structurally normal. Mild 
(1+) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

IMPRESSION: No echocardiographic evidence of cardiac source of 
embolus visualized.  

 
Brief Hospital Course:
Ms. ___ is a ___ old right-handed woman with a past 
medical history of hypertension on metoprolol, ocular migraine 
and hypothyroidism who initially presented as a transfer from an 
outside hospital for concern of abnormal CT scan in the setting 
of 10 minutes of word finding difficulty 1 day prior to 
presentation found to have likely acephalgic migraine. 

Patient reported a history of ocular migraine, last many years 
ago, where she would "shimmering lights without H/A". This 
occurred again shortly after her presenting complaint of 20 
minutes of word finding difficulty. Symptoms resolved quickly 
thereafter without other deficits. No headache associated. Her 
exam on presentation was non-focal. 

Etiology of symptoms thought to be secondary to acephalgic 
migraine given similarity to prior episodes. Possibility of TIA 
was entertained, but given above, she was started on aspirin 
81mg daily. Interestingly, she had two punctate hyperdensities 
seen on CT head which were not found on MRI scan. These likely 
represented calcification/artifact. Stroke risk factors: A1c 
5.5. LDL 108. MRI with contrast did not reveal stroke or 
underlying malignancy. CTA with vessel stenosis. TTE pending at 
discharge. 

Follow-up with neurology. She was counseled on return 
precautions. 

Transitional issues:
-f/u with neurology
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Metoprolol Tartrate 75 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
2.  Levothyroxine Sodium 100 mcg PO DAILY  
3.  Metoprolol Tartrate 75 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acephalgic migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ with difficulty speaking and transient 
visual symptoms which are most likely secondary to migraine with 
aura. You had a CT head which showed possible bleeding, but this 
was confirmed to be calcium on confirmatory MRI. There was no 
evidence of stroke. There is a small possibility that this was a 
transient ischemic attack (TIA) or "mini-stroke" so we will 
start you on a baby aspirin just in case. Your blood vessels 
were normal. You had an ultrasound of your heart which was 
pending at the time of discharge. 

Please schedule a follow-up appointment with your PCP in the 
next ___ weeks. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body 
 
Sincerely,  
Your ___ Neurology Team 
 
Followup Instructions:
___